US04335054
The procedure described in Example 28 is repeated, except that 8.23 g (0.05 mol) of p-formylbenzoyl chloride and 7.13 g (0.0625 mol) of ethyl methacrylate are used. After a reaction time of 2 hours at 120° C., 3.2 g (0.0147 mol) of ethyl p-formyl-α-methylcinnamate are obtained, corresponding to a yield of 29.4% of theory; boiling point 127°-131° C./7 Pa.

reactant | p-formylbenzoyl chloride | 0.05 mol, 8.23 g | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | ethyl methacrylate | 0.0625 mol, 7.13 g | C(C(=C)C)(=O)OCC | C6H10O2
product | ethyl p-formyl-α-methylcinnamate | 0.0147 mol, 3.2 g, yield of 29.4% | C(=O)C1=CC=C(C=C(C(=O)OCC)C)C=C1 | C13H14O3
